US08623870B2
A solution of 1.01 g (2.64 mmol) of 3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]-N-(2-oxoethyl)benzamide and 1.26 g (5.27 mmol) of (methoxycarbonylsulfamoyl)triethylammonium betaine (Burgess reagent) in 5.3 ml of THF is stirred at a temperature of 150° C. in a sealed vessel for 5 minutes. The reaction mixture is partitioned between saturated sodium hydrogencarbonate solution and dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica-gel column with dichloromethane/methanol as eluent, giving 6-(3,5-difluorophenyl)-2-(3-oxazol-2-ylbenzyl)-2H-pyridazin-3-one as colourless crystals; ESI 366.

reactant | 3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]-N-(2-oxoethyl)benzamide | 2.64 mmol, 1.01 g | FC=1C=C(C=C(C1)F)C1=NN(C(C=C1)=O)CC=1C=C(C(=O)NCC=O)C=CC1 | C20H15F2N3O3
reactant | (methoxycarbonylsulfamoyl)triethylammonium betaine | 5.27 mmol, 1.26 g | COC(=O)NS(=O)(=O)[N+](CC)(CC)CC.C[N+](C)(C)CC(=O)O
solvent | THF | 5.3 ml | C1CCOC1 | C4H8O
product | 6-(3,5-difluorophenyl)-2-(3-oxazol-2-ylbenzyl)-2H-pyridazin-3-one | FC=1C=C(C=C(C1)F)C=1C=CC(N(N1)CC1=CC(=CC=C1)C=1OC=CN1)=O | C20H13F2N3O2
